US04971959
3-(3-Cyclopentoxy-4-methoxyphenyl)propenyl alcohol
To a stirred solution of 0.50 g (1.81 mmol) of methyl 3-(3-cyclopentoxy-4-methoxyphenyl)-E-propenoate in 70 mL of dry methylene chloride under a nitrogen atmosphere was added dropwise 3.0 mL (3.0 mmol) of a 1.0M solution of diisobutylaluminum hydride in toluene over a 10 minute period at room temperature. The mixture was stirred for 30 minutes at the end of which time the solution was slowly poured over a stirring solution of 30 mL of saturated ammonium chloride. The resulting solution was stirred for 30 minutes during which time a gelatinous solid formed. Absorption of the solid on excess Celite 545 followed by filtration over a pad of Celite 545 and elution with three, 30 mL portions of chloroform provided a yellow suspension. Separation of the layers followed by washing the organic fraction with 30 mL of saturated sodium chloride, drying over magnesium sulfate and concentration gave a crude yellow product. Liquid chromatography over 100 g of silica gel eluting with 30% ethyl acetate in hexane provided the desired, analytically pure product after drying in vacuo.

reactant | methyl 3-(3-cyclopentoxy-4-methoxyphenyl)-E-propenoate | 1.81 mmol, 0.50 g | C1(CCCC1)OC=1C=C(C=CC1OC)/C=C/C(=O)OC | C16H20O4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 3-(3-Cyclopentoxy-4-methoxyphenyl)propenyl alcohol | C1(CCCC1)OC=1C=C(C=CC1OC)CC=CO | C15H20O3
